US04421753
A mixture of 13.1 g. of p-cyanobenzaldehyde and 15 ml. of piperazine-1-carboxaldehyde was heated to 100° C. Over 10 minutes, 6 g. of 99% formic acid were added. The mixture was heated for 3 hours, then 200 ml. of 3.6 N hydrochloric acid in ethanol were added and the mixture was refluxed for 4 hours. The solid was collected, washed with ether and suspended in water. 10 N Sodium hydroxide extracted with three 100 ml. portions of chloroform and the combined extracts were evaporated. The residue was suspended in a mixture of 6 N hydrochloric acid and chloroform and filtered. The filtrate was adjusted to pH>7 with 10 N sodium hydroxide, extracted with chloroform, and the extract dried and evaporated to an oil which was distilled, giving α-(1-piperazinyl)-p-tolunitrile as a colorless liquid, b.p. 207°-209° C. (15 mm.).

reactant | p-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | piperazine-1-carboxaldehyde | N1(CCNCC1)C=O | C5H10N2O
reactant | formic acid | C(=O)O | CH2O2
reactant | hydrochloric acid | 3.6 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | α-(1-piperazinyl)-p-tolunitrile | N1(CCNCC1)CC1=CC=C(C=C1)C#N | C12H15N3
